US05807883
2.5 ml of boron tribromide was added dropwise to a stirred solution of 2.37 g of ethyl 3-[2,3-dihydro-6-methoxy-3-(2-naphthalenecarbonyl)amino-2-oxo-1-phenyl-1H-indol-3-yl]propionate in methylene chloride (20 ml) under ice cooling. The mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was evaporated to dryness under reduced pressure to afford ethyl 3-[2,3-dihydro-6-hydroxy-3-(2-naphthalenecarbonyl)amino-2-oxo-1-phenyl-1H-indol-3-yl]propionate.

reactant | boron tribromide | 2.5 ml | B(Br)(Br)Br | BBr3
reactant | ethyl 3-[2,3-dihydro-6-methoxy-3-(2-naphthalenecarbonyl)amino-2-oxo-1-phenyl-1H-indol-3-yl]propionate | 2.37 g | COC1=CC=C2C(C(N(C2=C1)C1=CC=CC=C1)=O)(NC(=O)C1=CC2=CC=CC=C2C=C1)CCC(=O)OCC | C31H28N2O5
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-[2,3-dihydro-6-hydroxy-3-(2-naphthalenecarbonyl)amino-2-oxo-1-phenyl-1H-indol-3-yl]propionate | OC1=CC=C2C(C(N(C2=C1)C1=CC=CC=C1)=O)(NC(=O)C1=CC2=CC=CC=C2C=C1)CCC(=O)OCC | C30H26N2O5
